US05869495
Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylmethoxy)propanoate
Sodium hydride (60% dispersion in mineral oil; 0.14 g) was added portionwise to a stirred solution of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-hydroxypropanoate (1.20 g) in dry N,N-dimethyl formamide (20 mL) under a nitrogen atmosphere. The mixture was stirred at room temperature for 15 minutes prior to the addition of benzyl bromide (0.6 mL). Stirring was continued at room temperature for 3 hrs, then at 80° C. for 17 hrs before the mixture was cooled, diluted with water (500 mL) and extract with ethyl acetate (3×200 mL). The combined ethyl acetate layers were washed with water (4×500 mL) and brine (500 mL), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with 1% methanol in dichloromethane to afford the title compound, a gum, which was used in the next stage without further purification.

reactant | Sodium hydride | 0.14 g | [H-].[Na+]
reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-hydroxypropanoate | 1.20 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)O | C20H22N2O5
reactant | benzyl bromide | 0.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(phenylmethoxy)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)OCC2=CC=CC=C2 | C27H28N2O5
